US06517984B1
4-(Di-p-tolylamino)benzoic acid (69.7 g, 0.22 mol) dissolved in benzene (500 mL), was treated with 1,8-diazabicyclo[5.4.0]undec-7-ene (38 mL, 0.25 mol), followed by the addition of ethyl bromide (33 mL, 0.44 mol). The reaction was filtered to remove salts, washed with saturated ammonium chloride until neutral (1.5 L), washed with water, washed with brine, and dried over magnesium sulfate. The solvent was removed at 40° C. and the residual crystalline solid was washed with cold ethanol to give ethyl 4-(di-p-tolylamino)benzoate (57.4 g, 76% yield).

reactant | 4-(Di-p-tolylamino)benzoic acid | 0.22 mol, 69.7 g | C1(=CC=C(C=C1)N(C1=CC=C(C(=O)O)C=C1)C1=CC=C(C=C1)C)C | C21H19NO2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.25 mol, 38 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | ethyl bromide | 0.44 mol, 33 mL | C(C)Br | C2H5Br
solvent | benzene | 500 mL | C1=CC=CC=C1 | C6H6
product | ethyl 4-(di-p-tolylamino)benzoate | 57.4 g, 76% yield | C1(=CC=C(C=C1)N(C1=CC=C(C(=O)OCC)C=C1)C1=CC=C(C=C1)C)C | C23H23NO2
